US09228120B2
Additionally, for example when mixing 1,3-didecyltetramethyldisilazane as the silicon compound B and trifluoroacetic anhydride as the acid B, the trifluoroacetic anhydride is rapidly reacted to form decyldimethylsilyl trifluoroacetate as the acid A.

reactant | 1,3-didecyltetramethyldisilazane | C(CCCCCCCCC)[Si](N[Si](CCCCCCCCCC)(C)C)(C)C | C24H55NSi2
reactant | trifluoroacetic anhydride | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
product | decyldimethylsilyl trifluoroacetate | FC(C(=O)O[Si](C)(C)CCCCCCCCCC)(F)F | C14H27F3O2Si
